* Extended pre-layout top-level simulation for mbg-d08.
.include "mbg-d08_pre_cmp_exec.spice"
.temp 27

VDD_SRC VDD 0 3.3
VSS_SRC VSS 0 0
VCLK CLK 0 PULSE(0 3.3 20n 0.1n 0.1n 5u 10u)
* Complementary linear ramp: INP offset -200 mV to +200 mV; INN offset +200 mV to -200 mV.
* The 1.65 V common-mode level gives actual pin ramps of 1.45 V to 1.85 V and 1.85 V to 1.45 V over 100 us.
VINP INP 0 PWL(0 0 100u 3.3)
VINN INN 0 PWL(0 3.3 100u 0)
I_BIAS 0 IBIAS DC 20u

* Pad loads and output observation capacitance.
RLOAD_DS_OTA deepseek_ota 0 1G
RLOAD_GPT_OTA gpt_ota 0 1G
RLOAD_OXA_OTA oxa_ota 0 1G
RLOAD_DS_CMP deepseek_cmp 0 1G
RLOAD_GPT_CMP gpt_cmp 0 1G
RLOAD_OXA_CMP oxa_cmp 0 1G
RLOAD_DS_VREF deepseek_vref 0 1G
RLOAD_GPT_VREF gpt_vref 0 1G
RLOAD_OXA_VREF oxa_vref 0 1G
RLOAD_TEMP temp_out 0 1G
CLOAD_DS_OTA deepseek_ota 0 1p
CLOAD_GPT_OTA gpt_ota 0 1p
CLOAD_OXA_OTA oxa_ota 0 1p
CLOAD_DS_CMP deepseek_cmp 0 20f
CLOAD_GPT_CMP gpt_cmp 0 20f
CLOAD_OXA_CMP oxa_cmp 0 20f
CLOAD_DS_VREF deepseek_vref 0 1p
CLOAD_GPT_VREF gpt_vref 0 1p
CLOAD_OXA_VREF oxa_vref 0 1p
CLOAD_TEMP temp_out 0 20f
XDUT VDD VSS CLK INP INN IBIAS TEMP_OUT deepseek_ota gpt_ota oxa_ota deepseek_cmp gpt_cmp oxa_cmp deepseek_vref gpt_vref oxa_vref mbg_d08

.control
set noaskquit
op
print v(deepseek_ota) v(gpt_ota) v(oxa_ota)
print v(deepseek_cmp) v(gpt_cmp) v(oxa_cmp)
print v(deepseek_vref) v(gpt_vref) v(oxa_vref)
print v(temp_out)
tran 1n 200u
let vdiff = v(INP)-v(INN)
wrdata mbg-d08_pre_temp_long_tr.dat v(deepseek_ota) v(gpt_ota) v(oxa_ota) v(deepseek_cmp) v(gpt_cmp) v(oxa_cmp) v(deepseek_vref) v(gpt_vref) v(oxa_vref) v(temp_out) v(xdut.deepseek_cmp_n) v(xdut.gpt_cmp_n) v(xdut.oxa_cmp_n) vdiff
.endc
.end
